US05607691
A solution of FMOC-6-aminohexanol (617.2 mg, 1.5 mmol) in tetrahydrofuran (6 ml) was heated and then cooled to room temperature. To this solution was then added phosgene (2.9 ml, 1.93M in toluene). The reaction was stirred at room temperature for 15 hours and concentrated in vacuo to yield FMOC-6-aminohexanol chloroformate which was used immediately without further purification.

reactant | FMOC-6-aminohexanol | 1.5 mmol, 617.2 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(CCCCCN)O | C21H25NO3
reactant | phosgene | 1.93M, 2.9 ml | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | FMOC-6-aminohexanol chloroformate | ClC(=O)OC(CCCCCN)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H24ClNO4
